US05246951
6(1-HYDROXYETHYL)BENZOSELENAZOLINONE
1.2 g (0.005 mol) of 6-acetylbenzoselenazolinone are introduced together with 7.5 cm3 of 3% sodium hydroxide into a ground-necked round-bottom flask cooled in an ice bath. 0.38 g (0.001 mol) of sodium borohydride is then added slowly and with stirring. The solution is stirred at room temperature for 15 hours an the acidified with aqueous hydrochloric acid solution diluted 4-fold. The precipitate obtained is drained, washed with water and then recrystallized in a mixture of cyclohexane (1/3) and ethyl acetate (2/3).

reactant | 6-acetylbenzoselenazolinone | 0.005 mol, 1.2 g | C(C)(=O)C1=CC2=C(N=C[Se]2=O)C=C1 | C9H7NO2Se
reactant | sodium hydroxide | 7.5 cm3 | [OH-].[Na+]
reactant | sodium borohydride | 0.001 mol, 0.38 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 6(1-HYDROXYETHYL)BENZOSELENAZOLINONE | OC(C)C1=CC2=C(N=C[Se]2=O)C=C1 | C9H9NO2Se
